US05367077
A suspension of 4-hydroxy-6-(2-fluoro-5-methoxyphenyl) pyridone (345 mg, 1.47 mmol) in acetic acid (5 mL) was treated dropwise with 90% nitric acid (0.8 mL) at room temperature. The resulting homogeneous solution was heated to 55°-60° C. for 5 h during which time a precipitate formed. After cooling to room temperature the yellow solid was collected by filtration, washed thoroughly with water, and dried under vacuum to give pure 3-nitro4-hydroxy-6-(2-fluoro-5-methoxyphenyl) pyridone.

reactant | 4-hydroxy-6-(2-fluoro-5-methoxyphenyl) pyridone | 1.47 mmol, 345 mg | OC1=CC(NC(=C1)C1=C(C=CC(=C1)OC)F)=O | C12H10FNO3
reactant | nitric acid | 0.8 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-nitro4-hydroxy-6-(2-fluoro-5-methoxyphenyl) pyridone | [N+](=O)([O-])C=1C(NC(=CC1O)C1=C(C=CC(=C1)OC)F)=O | C12H9FN2O5
